US07307094B2
A mixture of 2-(2-(dimethylamino)phenyl)benzo[d]oxazole-4-carboxylic acid (100 mg, 0.35 mmol), (S)-(−)-3-aminoquinuclidine dihydrochloride (70 mg, 0.35 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (134 mg, 0.70 mmol) and 1-hydroxybenzotriazole (95 mg, 0.70 mmol) in DMF (1 mL) was stirred for 5 min at room temperature, then triethylamine (0.19 mL, 1.4 mmol) was added. The resulting reaction mixture was stirred at room temperature for 12 h. The mixture was diluted with dichloromethane (20 mL), then washed with a saturated solution of sodium bicarbonate (10 mL). The aqueous layer was further extracted with dichloromethane (3×15 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The crude material was purified by column chromatography (silica gel, 89:10:1 dichloromethane/methanol/concentrated ammonium hydroxide) to afford (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(2-dimethylaminophenyl)benzoxazole-4-carboxamide (46 mg, 34%) as a yellow solid: 1H NMR (500 MHz, CDCl3) δ 9.60 (d, J=7.0 Hz, 1H), 8.19 (dd, J=7.5, 1.0 Hz, 1H), 7.99 (dd, J=8.0, 2.0 Hz, 1H), 7.71 (dd, J=8.0, 1.0 Hz, 1H), 7.49-7.42 (m, 2H), 7.13 (d, J=8.5 Hz, 1H), 7.03 (t, J=8.5 Hz, 1H), 4.28-4.26 (m, 1H), 3.49 (ddd, J=11.5, 9.5, 2.0 Hz, 1H), 3.10-2.85 (m, 4H), 2.85 (s, 6H), 2.77 (dd, J=14.0, 4.5 Hz, 1H), 2.15-2.11 (m, 1H), 2.04-1.98 (m, 1H), 1.78-1.70 (m, 2H), 1.60-1.51 (m, 1H); MS (ESI+) m/z 391 (M+H); HPLC>99% (AUC), tR=12.81 min.

reactant | 2-(2-(dimethylamino)phenyl)benzo[d]oxazole-4-carboxylic acid | 0.35 mmol, 100 mg | CN(C1=C(C=CC=C1)C=1OC=2C(N1)=C(C=CC2)C(=O)O)C | C16H14N2O3
reactant | (S)-(−)-3-aminoquinuclidine dihydrochloride | 0.35 mmol, 70 mg | Cl.Cl.N[C@@H]1CN2CCC1CC2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.70 mmol, 134 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.70 mmol, 95 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 1.4 mmol, 0.19 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(2-dimethylaminophenyl)benzoxazole-4-carboxamide | 46 mg, 34% | N12C[C@H](C(CC1)CC2)NC(=O)C=2C=CC=C1C2N=C(O1)C1=C(C=CC=C1)N(C)C | C23H26N4O2
